US04539152
To a solution of methyl 2-[(3R,4R)-3-benzyloxycarbonylamino-2-oxo-4-(1,2,4-trioxolan-3-yl)-methylazetidin-1-yl]-2-oxoacetate (205 mg) in methanol (4 ml) was added 1N aqueous potassium hydrogen carbonate (0.5 ml) at ambient temperature. The mixture was stirred for 25 minutes and cooled to 0° C. Sodium borohydride (40 mg) and 1N aqueous potassium hydrogen carbonate were added to the mixture at 0° C. The reaction mixture was stirred at 0° C. for 30 minutes and at ambient temperature for an additional 30 minutes, and quenched by addition of acetic acid (0.20 ml). The resulting mixture was concentrated under reduced pressure and the residue was dissolved in chloroform and washed with brine containing sodium hydrogen carbonate. The aqueous layer was extracted three times with chloroform. The combined extracts were dried over magnesium sulfate, evaporated in vacuo, and chromatographed on silica gel (3 g, eluting with 10-30% acetone in dichloromethane) to give 66 mg of (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one.

reactant | methyl 2-[(3R,4R)-3-benzyloxycarbonylamino-2-oxo-4-(1,2,4-trioxolan-3-yl)-methylazetidin-1-yl]-2-oxoacetate | 205 mg | C(C1=CC=CC=C1)OC(=O)N[C@]1(C(N([C@H]1C1OOCO1)C(C(=O)OC)=O)=O)C | C17H18N2O9
reactant | potassium hydrogen carbonate | 1N, 0.5 ml | C(O)([O-])=O.[K+]
reactant | Sodium borohydride | 40 mg | [BH4-].[Na+]
reactant | potassium hydrogen carbonate | 1N | C(O)([O-])=O.[K+]
solvent | methanol | 4 ml | CO | CH4O
product | (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one | 66 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CCO)=O | C13H16N2O4
